US07553837B2
Production of (±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-yl)-[4-(4-imidazol-1-ylphenyl)-piperazin-1-yl]carboxamide
To 0.43 g of 1-(4-imidazol-1-ylphenyl)-piperazine and 0.5 g of 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid, 0.44 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.31 g of 1-hydroxybenzotriazole hydrochloride and 0.23 g of triethylamine were added, followed by stirring at room temperature for 24 hours. The reaction solution was poured into water and the precipitated crystal was removed by filtration and washed with water and ether, and then the resulting crystal was dried to obtain 0.88 g of the objective compound.

reactant | 1-(4-imidazol-1-ylphenyl)-piperazine | 0.43 g | N1(C=NC=C1)C1=CC=C(C=C1)N1CCNCC1 | C13H16N4
reactant | 2,4,6,7-tetramethyl-5-nitrodihydrobenzofuran-2-carboxylic acid | 0.5 g | CC1(OC=2C(C1)C(C(=C(C2C)C)[N+](=O)[O-])C)C(=O)O | C13H17NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.44 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrochloride | 0.31 g | Cl.ON1N=NC2=C1C=CC=C2
solvent | water | O | H2O
solvent | triethylamine | 0.23 g | C(C)N(CC)CC | C6H15N
product | (±)-(5-nitro-2,4,6,7-tetramethyldihydrobenzofuran-2-yl)-[4-(4-imidazol-1-ylphenyl)-piperazin-1-yl]carboxamide | 0.88 g | [N+](=O)([O-])C1=C(C(=C2C(CC(O2)(C)NC(=O)N2CCN(CC2)C2=CC=C(C=C2)N2C=NC=C2)C1C)C)C | C26H32N6O4
